US07074819B2
Step 2) Synthesis of 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman
To a solution of 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (3.10 g, 5.06 mmol) in 1,2-dichloroethane (200 ml) were added zinc iodide (2.42 g, 7.59 mmol) and sodium cyanoborohydride (2.23 g, 35.42 mmol), which was then stirred at room temperature for 8 hours. After the reaction was completed, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate=9:1) to give the title compound (1.50 g, yield 50%, 3RS/4RS:3RS14SR=6:1) as a colorless oil.

reactant | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 5.06 mmol, 3.10 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1(C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)O | C35H52O7Si
reactant | sodium cyanoborohydride | 35.42 mmol, 2.23 g | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 7.59 mmol, 2.42 g | [I-].[Zn+2].[I-]
product | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 1.50 g, yield 50% | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H52O6Si
